US04144344
A mixture of 44 g of 1-(1-benzyl-4-piperidyl)-3-(4-methoxy-phenyl)-imidazolidin-2-one, 320 ml of methanol, 130 ml of water and 12 g of a conc. aqueous solution of hydrochloric acid, with the addition of 10 g of a palladium on charcoal catalyst, is hydrogenated at 30° to 40° C and under reduced pressure until 1 molar equivalent of hydrogen has been taken up. Thereafter the catalyst is removed by filtration and the filtrate is concentrated under reduced pressure. The residue is treated with toluene and recrystallised from a mixture of isopropyl alcohol and diethyl ether to yield the 1-(4-methoxyphenyl)3-(4-piperidyl)-2-imidazolidinone with a melting point of 140° C.

reactant | 1-(1-benzyl-4-piperidyl)-3-(4-methoxy-phenyl)-imidazolidin-2-one | 44 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(N(CC1)C1=CC=C(C=C1)OC)=O | C22H27N3O2
reactant | methanol | 320 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 10 g | [Pd] | Pd
solvent | water | 130 ml | O | H2O
product | 1-(4-methoxyphenyl)3-(4-piperidyl)-2-imidazolidinone | COC1=CC=C(C=C1)N1C(N(CC1)C1CCNCC1)=O | C15H21N3O2
